US20010014677A1
3-{1-(1,3- Benzodioxol-5-yl)-2- [(4methylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-6-[2-(2-pyridyl)acetyl]-1H-indole
Lithium diisopropylamide mono(tetrahydrofuran) (0.53 ml of 1.5M solution in cyclohexane) as added to a stirred solution of 2-methylpyridine (0.08 ml, 0.8 mmol) in anhydrous tetrahydrofuran (3 ml) at −70° C. under a nitrogen atmosphere. After 20 minutes a solution of N6-methoxy-6,1-dimethyl-3-{1-(1,3-benzodioxol-5-yl)-2-[(4-methylphenyl)-sulfonamido]-2-oxoethyl}-1H-6-indolecarboxamide (the compound of Example 103, 200 mg, 0.36 mmol) in anhydrous tetrahydrofuran (2 ml) was added to the mixture at −70° C. The mixture was stirred at −70° C. for an additional 2 hours before being warmed to 0° C. and then quenched with the addition of water (5 ml). The mixture was acidified with acetic acid, and extracted with ethyl acetate (100 ml). The organic phase was separated and washed with brine, dried (magnesium sulphate) and the solvent was removed in vacuo. The residue was flash chromatographed using a gradient elution of a mixture of 90% hexane and 10% ethyil acetate, through to 100% ethyl acetate, to give the title compound (95 mg). 1H NMR (400 MHz, d6-DMSO): Complex due to keto and enol forms of the (2-pyridyl)acetyl group of the compound. 1H NMR (300 MHz, TFA-d): δ=2.43 (s, 3H), 3.79 (s, 3H), 5.21 (s, 1H), 5.90 (s, 2H), 6.62 (s, 1H), 6.66 (d, 1H), 6.75 (d, 1H), 7.02 (s, 1H), 7.30-7.40 (m, 3H), 7.70 (d, 1H), 7.81 (d, 2H), 7.96-8.08 (m, 2H), 8.13 (s, 1H), 8.59 (dd, 1H), 8.78 (d, 1H), 11.5 (exchanged NH, and the CH2 of (2-pyridyl)acetyl group). LRMS (APCI): 582.7 (MH+)

reactant | Lithium diisopropylamide mono(tetrahydrofuran) | 1.5M, 0.53 ml | O1CCCC1.C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-methylpyridine | 0.8 mmol, 0.08 ml | CC1=NC=CC=C1 | C6H7N
reactant | N6-methoxy-6,1-dimethyl-3-{1-(1,3-benzodioxol-5-yl)-2-[(4-methylphenyl)-sulfonamido]-2-oxoethyl}-1H-6-indolecarboxamide | CONC(=O)C1(C=CC2=C(CN(C2=C1)C)C(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C)C1=CC2=C(OCO2)C=C1)C | C28H29N3O7S
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-{1-(1,3- Benzodioxol-5-yl)-2- [(4methylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-6-[2-(2-pyridyl)acetyl]-1H-indole | 95 mg | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)C)C2=CN(C1=CC(=CC=C21)C(CC2=NC=CC=C2)=O)C | C32H27N3O6S
